US08748624B2
STEP F: ethyl 3-(5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinamido)propanoate
Solid HATU (127 mg, 0.34 mmol) was added to a THF solution (3 mL) of 5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinic acid (155 mg, 0.34 mmol), i-Pr2NEt (0.29 mL, 1.67 mmol), and β-alanine ethyl ester hydrochloride (54 mg, 0.35) and the resulting mixture was warmed to 45° C. After 16 h the resulting mixture was diluted with EtOAc, washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | HATU | 0.34 mmol, 127 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinic acid | 0.34 mmol, 155 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)O)CN(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C26H20Cl2N2O2
reactant | i-Pr2NEt | 1.67 mmol, 0.29 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | β-alanine ethyl ester hydrochloride | 54 mg | Cl.C(C)OC(CCN)=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | ethyl 3-(5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CN(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C31H29Cl2N3O3
